* ring_slow_sweep.spice -- the SLOW LEG sized against both extremes, loaded.
* Sweeps the slow-leg capacitor (Csl um square, 1.29 fF/um2) with the trim off, asking how
* much it slows ff/-40 C (which needs slowing) and what it costs ss/125 C (which needs every
* MHz it can get).  Same loaded chain as ring_loaded.spice.
* ring_loaded.spice -- ring frequency vs vctrl WITH THE REAL LOAD, which every earlier ring
* sweep omitted.  vco_ct_*, ring_centre* and ring_bracket drive only the ring and its own
* output buffer; in the macro the ring also drives the CDR diff amp, the clock stage and
* the buffers.  Measured consequence: at ss/125 C/1.08 V the standalone sweep says the trim
* fully on reaches 602.7 MHz, while the macro reaches 565 MHz closed loop
* (run_dual_ss125_108.out) -- about 7 % slower.  Every sizing decision made from the
* unloaded sweeps is therefore optimistic, including the 11 kohm candidate.
* (original header follows)
* clkpath_sb_pvt.spice -- clkpath_pvt.spice with the self-biased stage (sb_inverter.inc)
* inserted between CDR x4 clkraw- and inverter_buffer.  Same corners, same ring
* settings; adds duty cycle and the self-biased node.
*
* (original header follows)
*
* e2e_ff125_stages.log: at ff/125C/1.32V the ring runs but clkraw (CDR x4
* diff_amp_inv output) bottoms at ~0.605 V while inverter_buffer trips at
* 0.592 V (inv_trip_1.log), so rclk never toggles and the loop is dead.  This
* deck is the same chain open loop -- ring_ct -> diff_amp_inv (tail at VDD, as
* in CDR x4) -> inverter_buffer -> single_inverter -- at every temperature and
* supply, at the ring's slowest and fastest knob settings.
*
* Run under sim/run_corners.sh for the three process corners.
.control
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/r3_cmc.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/cap_cmomf.osdi
.endc

.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib  res_typ
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerCAP.lib  cap_typ

.include ../netlists/blocks.inc
.include ring_slow.inc
.include sb_inverter.inc

.global sub!
Vsub sub! 0 0
VDD VDD 0 1.2
VSS VSS 0 0
Vc   vctrl   0 0.6
Vcrs vcoarse 0 1.2

x1 VDD VSS vctrl vcoarse vop vom ring_slow
x4 VDD VSS crm crp vop vom VDD diff_amp_inv
xsb VDD VSS crm sbo sb_inverter
x11 VDD VSS sbo rclkp inverter_buffer
x12 VDD VSS rclkp rclkm single_inverter
.ic v(vop)=1.0 v(vom)=0.4
.options method=gear reltol=1e-4 abstol=1e-12 vntol=1e-6

.control
save v(vop) v(vom) v(crp) v(crm) v(rclkp) v(x1.net1)
foreach csl 0 1.5 2.5 3.5
 alterparam Csl = $csl
 reset
 foreach tmp -40 125
  foreach vd 1.08 1.32
   set temp = $tmp
   alter VDD = $vd
   alter Vcrs dc = $vd
   foreach vc 0.50 0.60 0.70 0.80
    alter Vc dc = $vc
    tran 5p 120n
    meas tran t1 when v(vop)=v(vom) rise=6
    meas tran t2 when v(vop)=v(vom) rise=26
    let f_MHz = 20/(t2-t1)/1e6
    meas tran vmax max v(x1.net1) from=60n to=120n
    meas tran vmin min v(x1.net1) from=60n to=120n
    let swing = vmax - vmin
    let p_csl = $csl
    let p_temp = $tmp
    let p_vdd = $vd
    let p_vc = $vc
    print p_csl p_temp p_vdd p_vc f_MHz swing
    echo ROWEND
   end
  end
 end
end
quit
.endc
.end
